US03962261
2,3-Dihydro-5-(1-pyrrolidinyl)-1-benzothiepin 1,1-Dioxide
A solution of 20.6 g (0.1 mol) of 3,4-dihydro-1-benzothiepin-5(2H)-one 1,1-dioxide, 9.6 g of pyrrolidine and 250 mg of p-toluenesulfonic acid in 250 ml of benzene was refluxed under a nitrogen atmosphere for 20 hours, using a Dean-Stark apparatus to remove the water which formed. Removal of the solvent under reduced pressure gave 27 g of a viscous oil which was used without further purification. The infrared spectrum showed the absence of a ketone band and the presence of a strong enamine band at 1620 cm-1.

reactant | 3,4-dihydro-1-benzothiepin-5(2H)-one 1,1-dioxide | 0.1 mol, 20.6 g | S1(CCCC(C2=C1C=CC=C2)=O)(=O)=O | C10H10O3S
reactant | pyrrolidine | 9.6 g | N1CCCC1 | C4H9N
solvent | benzene | 250 ml | C1=CC=CC=C1 | C6H6
catalyst | p-toluenesulfonic acid | 250 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | 2,3-Dihydro-5-(1-pyrrolidinyl)-1-benzothiepin 1,1-Dioxide | 27 g | N1(CCCC1)C1=CCCS(C2=C1C=CC=C2)(=O)=O | C14H17NO2S
